US08461179B1
To a suspension of 1-(4-bromo-5-(1-ethyl-7-(2-(methylthio)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea (0.18 g, 0.31 mmol) in DCM (25 mL) was added 70-75% mCPBA (0.14 g, 0.63 mmol) and the suspension was stirred at RT for 15 minutes. The mixture was diluted with a 10% Na2SO3 solution (30 mL), the layers were separated, and the organic layer was washed with satd. NaHCO3 solution, then brine, dried (Na2SO4), and concentrated. The crude product was purified by silica gel chromatography (MeOH/DCM) to afford 1-(4-bromo-5-(1-ethyl-7-(2-(methylsulfonyl)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea (115 mg, 61% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.08 (s, 1H), 8.69 (s, 1H), 8.46 (s, 1H), 8.18 (d, J=8.4 Hz, 1H), 7.74 (s, 1H), 7.66 (d, J=10.8 Hz, 1H), 7.41 (d, J=7.6 Hz, 2H), 7.28-7.24 (m, 3H), 6.96 (t, J=7.6 Hz, 1H), 6.42 (s, 1H), 4.12 (q, J=6.8 Hz, 2H), 3.77 (q, J=6.4 Hz, 2H), 3.39 (t, J=6.8 Hz, 2H), 3.02 (s, 3H), 1.20 (t, J=6.8 Hz, 3H); MS (ESI) m/z: 602.1 [M+H]+.

reactant | 1-(4-bromo-5-(1-ethyl-7-(2-(methylthio)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea | 0.31 mmol, 0.18 g | BrC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NCCSC)CC)=O)NC(=O)NC1=CC=CC=C1)F | C26H25BrFN5O2S
reactant | mCPBA | 0.63 mmol, 0.14 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2SO3 | 30 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-5-(1-ethyl-7-(2-(methylsulfonyl)ethylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea | 115 mg, 61% yield | BrC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NCCS(=O)(=O)C)CC)=O)NC(=O)NC1=CC=CC=C1)F | C26H25BrFN5O4S
